US07465730B2
Utilizing the general procedure outlined in Example 48, 1,1,2,2-tetraacetylethane (308 mg, 1.56 mol), 4-ethoxy-2,6-dimethyl-phenylamine (250 mg, 1.0 mmol) and hydrazine (100 μL) reacted to give 6-(4-ethoxy-2,6-dimethyl-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]-pyridazine as yellow solid: 1H NM (CDCl3, 500 MHz) δ 6.81 (s, 1H), 6.75 (s, 1H), 4.04 (q, 2H), 2.82 (s, 6H), 2.44 (s, 6H), 2.47 (s, 3H), 2.35 (s, 6H), 1.79 (s, 3H), 1.88 (t, 3H), ; MS (ESI) 324 (M+H)+.

reactant | 1,1,2,2-tetraacetylethane | 1.56 mol, 308 mg | C(C)(=O)C(C(C(C)=O)C(C)=O)C(C)=O | C10H14O4
reactant | 4-ethoxy-2,6-dimethyl-phenylamine | 1.0 mmol, 250 mg | C(C)OC1=CC(=C(C(=C1)C)N)C | C10H15NO
reactant | hydrazine | 100 μL | NN | H4N2
product | 6-(4-ethoxy-2,6-dimethyl-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]-pyridazine | C(C)OC1=CC(=C(C(=C1)C)N1C(=C2C(=NN=C(C2=C1C)C)C)C)C | C20H25N3O
